datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O[C@H](c1ccccc1)[C@@H](c1ccccc1)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O[C@H](c1ccccc1)[C@@H](c1ccccc1)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1ccc([NH2+:21][H:20])cc1.O=C1C=CC(O)=CC=C1[O-:10]>>CCc1ccc([NH2:21])cc1.O=C1C=CC(O)=CC=C1[O:10][H:20] 10=20;20,21=21",
"COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O-:10])cc2)n1.O=C(c1cccc(-c2nnn[nH]2)c1)[O:21][H:20]>>COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O:10][H:20])cc2)n1.O=C(c1cccc(-c2nnn[nH]2)c1)[O-:21] 10=20;20,21=21",
"Nc1cc[nH+]c([S-])[n+:21]1[H:20].[S-]c1ncc2nc[n-:10]c2n1>>Nc1cc[nH+]c([S-])[n:21]1.[S-]c1ncc2nc[n:10]([H:20])c2n1 10=20;20,21=21",
"CC(=O)Nc1ccc([S:21][H:20])cc1.CN(C)c1ccc2cc3c4ccccc4ccc3[n:10]c2c1>>CC(=O)Nc1ccc([S-:21])cc1.CN(C)c1ccc2cc3c4ccccc4ccc3[n+:10]([H:20])c2c1 10=20;20,21=21",
"CCC[N:10]1CCCCC1.C[N+:21](C)([C@H]1CC[C@@H](C)CC1)[H:20]>>CCC[N+:10]1([H:20])CCCCC1.C[N:21](C)[C@H]1CC[C@@H](C)CC1 10=20;20,21=21",
"CNC(N(C)C)=[NH:10].COc1ccc(-c2nc3c[n+:21]([H:20])ccc3[nH]2)c(OC)c1>>CNC(N(C)C)=[NH+:10][H:20].COc1ccc(-c2nc3c[n:21]ccc3[nH]2)c(OC)c1 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)[N:21](c2nccs2)[H:20])cc1.C[NH2+][C@H]1C[C@@H]1[NH:10]C>>CC(=O)Nc1ccc(S(=O)(=O)[N-:21]c2nccs2)cc1.C[NH2+][C@H]1C[C@@H]1[NH+:10](C)[H:20] 10=20;20,21=21",
"N[N-:10]C(=O)c1cccnc1.c1ccc2c(c1)[nH]n[n+:21]2[H:20]>>N[N:10](C(=O)c1cccnc1)[H:20].c1ccc2c(c1)[nH]n[n:21]2 10=20;20,21=21",
"Cc1cc(Nc2ccc([O-:10])cc2)cc(C)c1O.NCc1nc2ccccc2[n:21]1[H:20]>>Cc1cc(Nc2ccc([O:10][H:20])cc2)cc(C)c1O.NCc1nc2ccccc2[n-:21]1 10=20;20,21=21",
"C[N:10](CC1CO1)CC1CO1.O=S(CCc1ccccc1)[O:21][H:20]>>C[N+:10](CC1CO1)(CC1CO1)[H:20].O=S(CCc1ccccc1)[O-:21] 10=20;20,21=21",
"CCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])C=C1>>CCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)C=C1 10=20;20,21=21",
"COc1c(C)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.Oc1ccc(Nc2ccc([O:21][H:20])cc2)cc1>>COc1c(C)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].Oc1ccc(Nc2ccc([O-:21])cc2)cc1 10=20;20,21=21",
"Cc1cc(C(=C(C#N)C#N)[O-:10])cc(C)c1O.Cc1cc(Cc2cc(C)c(O)c(C)c2)c([O:21][H:20])c([N+](=O)[O-])c1>>Cc1cc(C(=C(C#N)C#N)[O:10][H:20])cc(C)c1O.Cc1cc(Cc2cc(C)c(O)c(C)c2)c([O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"Fc1cc2c(cc1Cl)[nH]c[n:10]2.O=C(CCl)[O:21][H:20]>>Fc1cc2c(cc1Cl)[nH]c[n+:10]2[H:20].O=C(CCl)[O-:21] 10=20;20,21=21",
"CCOC(=O)c1ccc([NH2+:21][H:20])cc1.Cc1ccccc1[NH:10]C1CCCCC1>>CCOC(=O)c1ccc([NH2:21])cc1.Cc1ccccc1[NH+:10](C1CCCCC1)[H:20] 10=20;20,21=21",
"CCNc1cc[nH+]c([S:21][H:20])n1.COc1ccc(C2SCC[NH:10]2)cc1>>CCNc1cc[nH+]c([S-:21])n1.COc1ccc(C2SCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"COc1cc(S(N)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC.C[N+:21](C)(Cc1cc(/N=N/c2ccccc2)ccc1[O-])[H:20]>>COc1cc(S(N)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC.C[N:21](C)Cc1cc(/N=N/c2ccccc2)ccc1[O-] 10=20;20,21=21",
"CCCCCC[NH:10]CCCCCC.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCCCC[NH+:10](CCCCCC)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].c1c(CN2CCNCC[NH:10]CC2)n[nH]c1CN1CCNCCNCC1>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.c1c(CN2CCNCC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"NC(=O)CCC(N)C(=O)NCC(=O)[O-:10].O=C(c1cccc([N+](=O)[O-])c1Cl)[O:21][H:20]>>NC(=O)CCC(N)C(=O)NCC(=O)[O:10][H:20].O=C(c1cccc([N+](=O)[O-])c1Cl)[O-:21] 10=20;20,21=21",
"Nc1cccc(-c2cccc(N)[n:10]2)n1.OCNc1nc(NCO)[n+:21]([H:20])c(NCO)n1>>Nc1cccc(-c2cccc(N)[n+:10]2[H:20])n1.OCNc1nc(NCO)[n:21]c(NCO)n1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2cc([O-:10])c(C3=[NH+]CCN3)cc2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2cc([O:10][H:20])c(C3=[NH+]CCN3)cc2c1 10=20;20,21=21",
"CCOc1ccc2[nH]c(C)[n+:21]([H:20])c2c1.COc1nc(-n2nc(C)cc2[O-:10])nc(C)c1C>>CCOc1ccc2[nH]c(C)[n:21]c2c1.COc1nc(-n2nc(C)cc2[O:10][H:20])nc(C)c1C 10=20;20,21=21",
"S=C1Nc2cc3c(cc2[N-:10]1)CCCC3.c1cc(CCCCC[NH2+:21][H:20])ccn1>>S=C1Nc2cc3c(cc2[N:10]1[H:20])CCCC3.c1cc(CCCCC[NH2:21])ccn1 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(F)cc2)CCC1(C)C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(F)cc2)[H:20])CCC1(C)C.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O:21][H:20].C[N:10](C)C(O)O>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-:21].C[N+:10](C)(C(O)O)[H:20] 10=20;20,21=21",
"CC[NH:10]Cc1ccc(C)cc1.Cc1ccc2c(c1)C(CC[NH3+])C[NH+:21]2[H:20]>>CC[NH+:10](Cc1ccc(C)cc1)[H:20].Cc1ccc2c(c1)C(CC[NH3+])C[NH:21]2 10=20;20,21=21",
"C[N:10]1C[C@H](CO)C[C@H]2c3cccc4[nH]cc(c34)C[C@@H]21.NNC(=O)C(Cc1c[nH]c[n+:21]1[H:20])NC(=O)OCc1ccccc1>>C[N+:10]1([H:20])C[C@H](CO)C[C@H]2c3cccc4[nH]cc(c34)C[C@@H]21.NNC(=O)C(Cc1c[nH]c[n:21]1)NC(=O)OCc1ccccc1 10=20;20,21=21",
"C#CC(C)(C)[NH:10]c1ccccc1.CCC([NH3+])C(=O)[O:21][H:20]>>C#CC(C)(C)[NH+:10](c1ccccc1)[H:20].CCC([NH3+])C(=O)[O-:21] 10=20;20,21=21",
